US05225421
1-(p Chlorobenzyl)-3-(t-butylthio)-α,α-dimethyl-5-(i-propyl)-indole-2-propanoic acid
Following the procedure of Example 10, but using 1-(p-chlorobenzyl)-1[-(4-(i-propyl)phenyl]hydrazine hydrochloride and methyl 2,2-dimethyl-5-(t-butylthio)-4-oxopentanoate as starting materials and hydrolysis at reflux, the title compound was prepared, mp 189°-192°.

reactant | (4-(i-propyl)phenyl]hydrazine hydrochloride | Cl.C(C)(C)C1=CC=C(C=C1)NN
reactant | methyl 2,2-dimethyl-5-(t-butylthio)-4-oxopentanoate | CC(C(=O)OC)(CC(CSC(C)(C)C)=O)C | C12H22O3S
product | 1-(p Chlorobenzyl)-3-(t-butylthio)-α,α-dimethyl-5-(i-propyl)-indole-2-propanoic acid | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)C(C)C)SC(C)(C)C)CC(C(=O)O)(C)C)C=C1 | C27H34ClNO2S
